US09375010B2
To a solution of 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-4-methyl-1,2,4-oxadiazol-5(4H)-one (600 mg, 1.84 mol, 1 eq) in isopropanol (8 mL) was added N,N-dimethylacetamide dimethyl acetal. The mixture was refluxed for 4 h30. Hydroxylamine hydrochloride (154 mg, 2.21 mmol, 1.2 eq) was added at room temperature and the mixture was stirred at room temperature for 2 days. The solvent was then evaporated and water was added. The resulting precipitate was filtered and dried under vacuum to afford N′-hydroxy-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide (660 mg, 75% yield) as a white solid.

reactant | 3-[(Z)-{[(6-aminopyridin-2-yl)methoxy]imino}(phenyl)methyl]-4-methyl-1,2,4-oxadiazol-5(4H)-one | 1.84 mol, 600 mg, 1 eq | NC1=CC=CC(=N1)CO\N=C(/C1=NOC(N1C)=O)\C1=CC=CC=C1 | C16H15N5O3
reactant | N,N-dimethylacetamide dimethyl acetal | COC(C)(N(C)C)OC | C6H15NO2
reactant | Hydroxylamine hydrochloride | 2.21 mmol, 154 mg, 1.2 eq | Cl.NO
solvent | isopropanol | 8 mL | C(C)(C)O | C3H8O
product | N′-hydroxy-N-{6-[({[(Z)-(4-methyl-5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)(phenyl)methylene]amino}oxy)methyl]pyridin-2-yl}ethanimidamide | 660 mg, 75% yield | ON=C(C)NC1=NC(=CC=C1)CO\N=C(\C1=CC=CC=C1)/C1=NOC(N1C)=O | C18H18N6O4
